US09024018B2
(E)-4-(2-(3-(Methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)vinyl)benzonitrile (MM-001)
Sodium nitrite (40 mg, 0.57 mmol) in water (0.5 mL) was added to a suspension of (E)-4-(2-(5-amino-1H-imidazol-4-yl)vinyl)benzonitrile (100 mg, 0.47 mmol) in 50% HBF4 (2 mL) at 0° C. After stirring at 0° C. for 20 minutes, the precipitate was filtered from solution and dried over P2O5. This diazo compound was used without further purification. Methoxymethyl isocyanate (150 mg, 1.8 mmol) was added to a solution of (E)-4-(2-(4-diazo-4H-imidazol-5-yl)vinyl)benzonitrile (80 mg, 0.36 mmol) in dry DMSO (1 mL) under nitrogen. The resulting solution was stirred at room temperature for 24 hours, then purified by column chromatography (5% MeCN/DCM) to give the title compound as a yellow solid (42 mg, 38%). δH (DMSO-d6) 8.48 (1H, s), 7.81 (1H, d, J=16.0), 7.71 (4H, m), 7.60 (1H, d, J=16.0) 5.72 (2H, s), 3.58 (3H, s); IR (cm−1) 2222 (C≡N), 1631 (C═N); MS (m/z) 309.1121 (C15H13N6O2 (M+1)) requires 309.1100.

reactant | Sodium nitrite | 0.57 mmol, 40 mg | N(=O)[O-].[Na+]
reactant | (E)-4-(2-(5-amino-1H-imidazol-4-yl)vinyl)benzonitrile | 0.47 mmol, 100 mg | NC1=C(N=CN1)/C=C/C1=CC=C(C#N)C=C1 | C12H10N4
reactant | Methoxymethyl isocyanate | 1.8 mmol, 150 mg | COCN=C=O | C3H5NO2
reactant | (E)-4-(2-(4-diazo-4H-imidazol-5-yl)vinyl)benzonitrile | 0.36 mmol, 80 mg | [N+](=[N-])=C1N=CN=C1/C=C/C1=CC=C(C#N)C=C1 | C12H7N5
solvent | water | 0.5 mL | O | H2O
solvent | HBF4 | 2 mL | [H+].[B-](F)(F)(F)F
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (E)-4-(2-(3-(Methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazin-8-yl)vinyl)benzonitrile | 42 mg, 38% | COCN1N=NC=2N(C1=O)C=NC2/C=C/C2=CC=C(C#N)C=C2 | C15H12N6O2
